US08383786B2
Preparation of tert-butyl-dimethyl-((2S,3R,4R,5S,6S)-3,4,5-trimethoxy-6-methyl-tetrahydropyran-2-yloxy)-silane. (Compound E-23)
Tri-O-methylrhamnose (20.0 g, 97.0 mmol) was dissolved in CH2Cl2 (400 mL) and treated with imidazole (10.0 g, 147 mmol) and chloro-tert-butyldimethyl silane (TBSCl; 20.0 g, 132 mmol). After 3 days (d), the reaction mixture was partitioned between water (H2O) and CH2Cl2, and the organic layer was washed with brine, dried over sodium sulfate (Na2SO4) and concentrated. The crude residue was further purified by chromatography on silica gel (10-20% ethyl acetate (EtOAc) in petroleum ether as eluant) to give the title compound (12.8 g, 82%) as a clear syrup in a 20:80 α:β ratio. The physical properties of the major β-epimer are: 1H NMR (CDCl3) δ 4.55 (s, 1H), 3.58 (s, 3H), 3.48 (m, 1H), 3.45 (s, 3H), 3.40 (s, 3H), 3.00 (m, 3H), 1.24 (d, J=6.2 Hz, 3H), 0.80 (s, 9H), 0.05 (s, 6H); EIMS m/z 263 ([M-tBu]+, 1), 88 (100).

reactant | Tri-O-methylrhamnose | 97.0 mmol, 20.0 g | CO[C@@H](C=O)[C@H](OC)[C@@H](OC)[C@@H](O)C | C9H18O5
reactant | imidazole | 147 mmol, 10.0 g | N1C=NC=C1 | C3H4N2
reactant | chloro-tert-butyldimethyl silane | 132 mmol, 20.0 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl-dimethyl-((2S,3R,4R,5S,6S)-3,4,5-trimethoxy-6-methyl-tetrahydropyran-2-yloxy)-silane | 12.8 g, 82% | C(C)(C)(C)[Si](O[C@@H]1O[C@H]([C@@H]([C@H]([C@H]1OC)OC)OC)C)(C)C | C15H32O5Si
